US06982348B2
N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-3-oxo-2,3-dihydro-1H-indene-1-carboxamide
To a solution of (1RS,2RS)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine (150 mg, 0.42 mmol) in acetonitrile (10 ml) were added 3-oxo-2,3-dihydro-1H-indene-1-carboxylic acid (73 mg, 0.42 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (119 mg, 0.62 mmol) and 1-hydroxy-1H-benzotriazole (63.6 mg, 0.42 mmol) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (50 ml) and extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) and recrystallized from ethyl acetate-hexane to give a highly polar isomer (61 mg, 31%) of the title compound.

reactant | (1RS,2RS)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine | 0.42 mmol, 150 mg | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)N)O | C16H15F4NO
reactant | 3-oxo-2,3-dihydro-1H-indene-1-carboxylic acid | 0.42 mmol, 73 mg | O=C1CC(C2=CC=CC=C12)C(=O)O | C10H8O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.62 mmol, 119 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 0.42 mmol, 63.6 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 50 ml | O | H2O
product | N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-3-oxo-2,3-dihydro-1H-indene-1-carboxamide | 61 mg, 31% | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(=O)C1CC(C2=CC=CC=C12)=O)O | C26H21F4NO3
